US05958942
iii) Synthesis of 4,5-dihydro-4-[3-(1-trifluoromethanesulfonylpiperidin-4-yl)propan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3-one hydrochloride
To a solution prepared by dissolving 300 mg (0.70 mM) of 4,5-dihydro-4-[3-(1-trifluoromethanesulfonyl-piperidin-4-yl)propan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one in 10 ml of ethanol was added 0.12 ml (1.4 mM) of 12N hydrochloric acid at room temperature. After stirring, the solvent was distilled off under reduced pressure and 10 ml of 2-propanol was added to the residue. The precipitate that formed was recovered by filtration and rinsed with a small amount of ether to provide 265 mg (yield 81.1%) of the title compound as light-yellow solid.

reactant | 4,5-dihydro-4-[3-(1-trifluoromethanesulfonyl-piperidin-4-yl)propan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one | 0.70 mM, 300 mg | FC(S(=O)(=O)N1CCC(CC1)CCCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C18H21F3N4O3S
reactant | hydrochloric acid | 1.4 mM, 0.12 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-[3-(1-trifluoromethanesulfonylpiperidin-4-yl)propan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3-one hydrochloride | 265 mg, yield 81.1% | Cl.FC(S(=O)(=O)N1CCC(CC1)CCCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | InChI=1S/C18H21F3N4O3S.ClH/c19-18(20,21)29(27,28)24-9-6-13(7-10-24)3-2-8-23-12-14-4-1-5-16-22-11-15(17(23)26)25(14)16;/h1,4-5,11,13H,2-3,6-10,12H2;1H
